US07186729B2
Step 3: 4-(4-Chloro-phenyl)-3-methyl-piperidin-4-ol
To a solution of 4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidine-1-carboxylic acid tert-butyl ester (1.5 g, 4.6 mmol) in dichloromethane (40 mL) at about 0° C. was added trifluoroacetic acid (10 mL). The solution was stirred for about 2 hours. The solvent was evaporated and the residue was dissolved in ethyl acetate. The solution was neutralized with saturated sodium bicarbonate, and washed with brine and dried over magnesium sulfate. The solvent was removed to give a yellow solid. No purification was needed.

reactant | 4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidine-1-carboxylic acid tert-butyl ester | 4.6 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(O)C1=CC=C(C=C1)Cl)C | C17H24ClNO3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(4-Chloro-phenyl)-3-methyl-piperidin-4-ol | ClC1=CC=C(C=C1)C1(C(CNCC1)C)O | C12H16ClNO
